US08293744B2
Step 5: Preparation of (6-bromopyridin-3-yl)methyl methanesulfonate:
(6-Bromopyridin-3-yl)methanol (2.45 g, 13.0 mmol) was dissolved in dichloromethane (20 mL), cooled to 0° C. and treated successively with N,N-diisopropylethylamine (2.73 mL, 15.6 mmol, 1.2 equiv) and methanesulfonyl chloride (1.17 mL, 15.0 mmol, 1.15 equiv). After stirring for 30 minutes, the mixture was treated with ammonium chloride (10 mL, aqueous saturated) and warmed to ambient temperature. The mixture was poured into water (100 mL) and extracted with ethyl acetate (2×100 mL). The combined organic extracts were dried with sodium sulfate, filtered and concentrated in vacuo, providing the titled compound.

reactant | (6-Bromopyridin-3-yl)methanol | 13.0 mmol, 2.45 g | BrC1=CC=C(C=N1)CO | C6H6BrNO
reactant | N,N-diisopropylethylamine | 15.6 mmol, 2.73 mL, 1.2 equiv | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methanesulfonyl chloride | 15.0 mmol, 1.17 mL, 1.15 equiv | CS(=O)(=O)Cl | CH3ClO2S
reactant | ammonium chloride | 10 mL | [Cl-].[NH4+]
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | water | 100 mL | O | H2O
product | (6-bromopyridin-3-yl)methyl methanesulfonate | CS(=O)(=O)OCC=1C=NC(=CC1)Br | C7H8BrNO3S
